US06713474B2
5-(4-Phenoxyphenyl)-7H-pyrrolo[2,3-d]-pyrimidin-4-ylamine (906 mg) was reacted with 2-chloronicotinonitrile (510 mg) in the presence of sodium hydride (150 mg) in dimethylformamide (30 ml) at 100° C. for 5 hours to give 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]pyridine-3-carbonitrile, m.p. 242-242.5° C., after workup.

reactant | 5-(4-Phenoxyphenyl)-7H-pyrrolo[2,3-d]-pyrimidin-4-ylamine | 906 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CNC=2N=CN=C(C21)N | C18H14N4O
reactant | 2-chloronicotinonitrile | 510 mg | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | sodium hydride | 150 mg | [H-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]pyridine-3-carbonitrile | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2=NC=CC=C2C#N | C24H16N6O
